US05026702
N-[2-(4-(2-Hydroxyethoxy)-phenyl)-1-methylethyl]-2-(6-chloro-pyridin-2-yl)-morpholine
0.7 g of N-[2-(4-(2-hydroxyethoxy)-phenyl)-1-methylethyl]-2-(6-chloro-pyridin-2-yl)-morpholin-5-one are dissolved in 20 ml of tetrahydrofuran and over a period of 3 hours at ambient temperature 3 times 4 ml of a 1 molar borane/tetrahydrofuran solution are added. Then 30 ml of acetone are added and the mixture is evaporated down. The residue is dissolved in 100 ml of methanol and stirred for 20 hours. The solvent is distilled off in vacuo and the residue is purified over a silica gel column with ethyl acetate as eluant.

reactant | N-[2-(4-(2-hydroxyethoxy)-phenyl)-1-methylethyl]-2-(6-chloro-pyridin-2-yl)-morpholin-5-one | 0.7 g | OCCOC1=CC=C(C=C1)CC(C)N1CC(OCC1=O)C1=NC(=CC=C1)Cl | C20H23ClN2O4
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | borane tetrahydrofuran | 1 molar | B.O1CCCC1
product | N-[2-(4-(2-Hydroxyethoxy)-phenyl)-1-methylethyl]-2-(6-chloro-pyridin-2-yl)-morpholine | OCCOC1=CC=C(C=C1)CC(C)N1CC(OCC1)C1=NC(=CC=C1)Cl | C20H25ClN2O3
